US04344954
2-(o-Chlorophenyl)-3-(3,4-dimethoxyphenyl)-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol
A 6.13 g. portion of 2'-chloro-3,4-dimethoxybenzoin, 5.6 ml. of triethylamine and 20 ml. of toluene are mixed and stirred. A mixture of 1.55 ml. of methanesulfonyl chloride in 40 ml. of toluene is added over a period of one hour. A 50 ml. portion of water and more toluene are added. The organic layer is separated, washed with water and concentrated in vacuo to give 8.3 g. of 2'-chloro-3,4-dimethoxybenzoin methanesulfonate ester as a viscous oil. A mixture of this oil in 30 ml. of acetone is added to a stirred mixture of 1.95 g. of hexahydro-2H-1,3-diazepine-2-Thione in 150 ml. of acetone. The resulting mixture is stirred for 3 hours, then 3 hours at 45°-50° C., concentrated to 1/3 of its original volume and ether is added producing a gum. The mixture is concentrated free of solvents, 100 ml. of water and 2 ml. of ammonium hydroxide are added and the solid is filtered and washed with water. This solid is dissolved in 20 ml. of ethanol and refrigerated giving 1.3 g. of the desired product, m.p. 98°-100° C.

reactant | 2'-chloro-3,4-dimethoxybenzoin | ClC1=C(C(C(C2=CC(=C(C=C2)OC)OC)=O)O)C=CC=C1 | C16H15ClO4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | hexahydro-2H-1,3-diazepine-2-Thione | N1C(NCCCC1)=S | C5H10N2S
solvent | acetone | CC(=O)C | C3H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(o-Chlorophenyl)-3-(3,4-dimethoxyphenyl)-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol | ClC1=C(C=CC=C1)C1C(N2C(=NCCCC2)S1)(O)C1=CC(=C(C=C1)OC)OC | C21H23ClN2O3S
